US06982278B2
A mixture of the toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester (See Japan Tobacco Inc International Application Wo 9518125) (24 g, 66.9 mmol), 2-(4-hydroxyphenoxy)-2-methylpropanoic acid ethyl ester (See American Home Products U.S. Pat. No. 3,795,691) (12.5 g, 55.71 mmol) and Cs2CO3 (22.7 g, 69.6 mmol) was heated at 55° C. in DMF (45 mL) for 18 h. The reaction was partitioned between EtOAc (160 mL) and H2O (180 mL), and the aqueous phase extracted with EtOAc (150 mL). The combined organic phases were dried (MgSO4) and concentrated under reduced pressure to an oil which was purified by column chromatography (1500 mL SiO2, 10% EtOAc/hexanes to 20% EtOAc/hexanes) to provide 2-methyl-2-{4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]-phenoxy}propionic acid ethyl ester (17.8 g, 78%) as a colorless, viscous oil: Rf=0.48 in 35% EtOAc/hexanes; 1H NMR (400 MHz, CDCl3) δ 7.99-7.96 (m, 2H), 7.43-7.40 (m, 3H), 6.83-6.75 (m, 4H), 4.22 (q, J=9.2 Hz, 2H), 4.18 (t, J=8.8 Hz, 2H), 2.95 (t, J=8.8 Hz, 2H), 2.36 (s, 3H), 1.52 (s, 6H), 1.27 (t, J=9.2 Hz, 3H).

reactant | toluene-4-sulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester | 66.9 mmol, 24 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C19H19NO4S
reactant | 2-(4-hydroxyphenoxy)-2-methylpropanoic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC=C(C=C1)O)=O | C12H16O4
reactant | Cs2CO3 | 69.6 mmol, 22.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | 2-methyl-2-{4-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]-phenoxy}propionic acid ethyl ester | 17.8 g, 78% | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C)=O | C24H27NO5
